US08084489B2
A solution of 3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.0828 g, 0.148 mmol) in EtOH (2.0 mL) is treated with 10% palladium on carbon (16 mg), flushed with H2, and stirred under 1 atm pressure for 50 min. The mixture is then filtered through Celite® and concentrated. to provide 3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopentyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.0770 g, 93%) as a white foam. MS (ES): 558.3 [M−H]−.

reactant | 3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.148 mmol, 0.0828 g | COC(CCNC(=O)C=1SC(=CC1)C1(CC=CC1)COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C30H30F3NO4S
solvent | EtOH | 2.0 mL | CCO | C2H6O
catalyst | palladium on carbon | 16 mg | [Pd] | Pd
product | 3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopentyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.0770 g, 93% | COC(CCNC(=O)C=1SC(=CC1)C1(CCCC1)COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C30H32F3NO4S
